US07754348B2
Synthesis of 2-(4-(benzo[d]thiazol-2-yl)phenyl)-4,7-diphenyl-1,10-phenanthroline
To a three-necked flask of 250 ml, 1.63 g (5.6 mmol) of 2-(4-bromophenyl)benzo[d]thiazole and 70 ml of THF were charged, then 3.5 ml (5.6 mmol) n-butyllithium (1.6M in Hexane solution) was dropped under stirring at −78° C. in a nitrogen atmosphere. The mixture was stirred for one hour at −78° C., and a solution of 1.86 g (5.6 mmol) 4,7-diphenyl-1,10-phenanthroline in 30 ml THF was dropped. Then the mixture was stirred at room temperature for overnight and was added with water. The organic layer was extracted with Dichloromethane and dried with anhydrous magnesium sulfate, the solvent was removed by rotary evaporation. The product was purified by column chromatography on alumina using Dichloromethane/Hexane as eluent and dried in vacuo, obtaining white powder compound 1.27 g (yield of 41.91%), MS (m/z, FAB+) 541.6.

reactant | 2-(4-bromophenyl)benzo[d]thiazole | 5.6 mmol, 250 ml, 1.63 g | BrC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C13H8BrNS
reactant | n-butyllithium | 5.6 mmol, 1.6M, 3.5 ml | C(CCC)[Li]
reactant | 4,7-diphenyl-1,10-phenanthroline | 5.6 mmol, 1.86 g | C1(=CC=CC=C1)C1=CC=NC2=C3N=CC=C(C3=CC=C12)C1=CC=CC=C1 | C24H16N2
reactant | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 2-(4-(benzo[d]thiazol-2-yl)phenyl)-4,7-diphenyl-1,10-phenanthroline | 1.27 g, yield of 41.91% | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)C2=NC1=C3N=CC=C(C3=CC=C1C(=C2)C2=CC=CC=C2)C2=CC=CC=C2 | C37H23N3S
